US08022062B2
Treat 4-aminomethyl-benzoic acid methyl ester hydrochloride (0.2 g, 0.71 mmol) with K2CO3 (1.0 g, 0.71 mmol) in a mixture of toluene/water (1:1, 2 mL). Separate the organic layer, dry over anhydrous Na2SO4 and use as a toluene solution for the next step. Use a method similar to the General Procedure 5-2, using 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (0.1 g, 0.24 mmol) and 4-aminomethyl-benzoic acid methyl ester (0.2 g, 0.71 mmol) to give 7-chloro-6-(4-methoxycarbonyl-benzylamino)-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine as a colorless oil.

reactant | 4-aminomethyl-benzoic acid methyl ester hydrochloride | 0.71 mmol, 0.2 g | Cl.COC(C1=CC=C(C=C1)CN)=O
reactant | K2CO3 | 0.71 mmol, 1.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.24 mmol, 0.1 g | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10ClF6NO4S
reactant | 4-aminomethyl-benzoic acid methyl ester | 0.71 mmol, 0.2 g | COC(C1=CC=C(C=C1)CN)=O | C9H11NO2
solvent | toluene water | 2 mL | C1(=CC=CC=C1)C.O
product | 7-chloro-6-(4-methoxycarbonyl-benzylamino)-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)NCC1=CC=C(C=C1)C(=O)OC | C21H20ClF3N2O3
